US04405552
EXAMPLE 63: 3-CYANO-6-METHYL-5-PHENYL-2-PYRIDONE
A mixture of 4-dimethylamino-3-phenyl-3-butene-2-one (14.1 grams) and cyanoacetamide (5.9 grams) in 100 ml methanol was added to sodium methoxide (7.9 grams) in 100 ml methanol. The mixture was refluxed for 18 hours and then the crude reaction was stripped and the residue dissolved in a small amount of hot water. Acidification to pH 6-7 gave a gum-like solid which was collected by filtration. Further acidification to a lower pH gave only an oil. Trituration of the gum with ethyl acetate and chilling resulted in an off-white solid which was identified by NMR as the desired product, yield 2.8 grams, m.p. 280°-290° C.

reactant | 4-dimethylamino-3-phenyl-3-butene-2-one | 14.1 grams | CN(C=C(C(C)=O)C1=CC=CC=C1)C | C12H15NO
reactant | cyanoacetamide | 5.9 grams | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 7.9 grams | C[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
product | 3-CYANO-6-METHYL-5-PHENYL-2-PYRIDONE | C(#N)C=1C(NC(=C(C1)C1=CC=CC=C1)C)=O | C13H10N2O
